US08487112B2
To a solution of 300 of ethyl 4-chloroacetoacetate in 519 ml of toluene and 200 ml of ethanol are added 20.8 ml of acetic acid. At 10° C.-30° C., with cooling, 188.7 g of a 33% methylamine solution in ethanol are added dropwise. Subsequently, the mixture is stirred at room temperature for 8 h and the solvent is removed under reduced pressure at temperatures of down to 35° C. 328 g of ethyl 4-chloro-3-(methylamino)but-2-enecarboxylate are obtained in a purity of 91% (this corresponds to 92% yield).

reactant | ethyl 4-chloroacetoacetate | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | acetic acid | 20.8 ml | C(C)(=O)O | C2H4O2
reactant | methylamine | CN | CH5N
reactant | toluene | 519 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 4-chloro-3-(methylamino)but-2-enecarboxylate | 328 g, 92% yield | ClCC(=CCC(=O)OCC)NC | C8H14ClNO2
